### ISSUE TITLE
omega canonicalizer vs. universe expressions

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#3848]
At the time of writing, `omega` does not use full defEq when recognizing atoms, but since #3639 the aim is to consider atoms equal if they are definitionally equal, but differ only in *implicit* parameters.

Universe parameters are similarly implicit to the user, and cause great confusion in a proof like
```
theorem sizeOf_snd_lt_sizeOf_list
  {α : Type u} {β : Type v} [SizeOf α] [SizeOf β] {x : α × β} {xs : List (α × β)} :
  x ∈ xs → sizeOf x.snd < 1 + sizeOf xs
:= by
  intro h
  have h1 := List.sizeOf_lt_of_mem h
  have h2 : sizeOf x = 1 + sizeOf x.1 + sizeOf x.2 := rfl
  cases x; dsimp at *
  omega
```
where the user sees
```
omega did not find a contradiction:
[0, 0, 1] ∈ [0, ∞)
[0, 0, 0, 1] ∈ [0, ∞)
[1, -1, -1] ∈ [2, ∞)
[0, 1] ∈ [0, ∞)
[0, 0, 1, -1] ∈ [1, ∞)
[1] ∈ [0, ∞)
```
when they expect `omega` to solve it.

To debug the problem I had to come up with #3847 *and* turn on `set_option pp.universes true`, and now we see what goes wrong:
```
omega could not prove the goal:
a possible counterexample may satisfy the constraints
x₃ ∈ [0, ∞)
x₄ ∈ [0, ∞)
x₁ - x₂ - x₃ ∈ [2, ∞)
x₂ ∈ [0, ∞)
x₃ - x₄ ∈ [1, ∞)
x₁ ∈ [0, ∞)
where
x₁ := ↑(sizeOf.{(max u v) + 1} xs)
x₂ := ↑(sizeOf.{u + 1} fst✝)
x₃ := ↑(sizeOf.{v + 1} snd✝)
x₄ := ↑(sizeOf.{max (u + 1) (v + 1)} xs)
```

One can work around the problem by changing the lemma statement as such
```
theorem sizeOf_snd_lt_sizeOf_list
  {α : Type u} {β : Type v} [SizeOf α] [SizeOf β] {x : α × β} {xs : List (α × β)} :
  x ∈ xs → sizeOf x.snd < 1 + sizeOf.{(max u v)+1} xs
```
but arguably one shouldn't have to.

### Versions

0aa68312b643abce8f80be35274c306c3fc1601b

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
